US07875728B2
1-Methyl-1H-pyrrole-2-carboxylic acid methyl ester (5 g, 35.9 mmol) and CH3CN (2.5 mL) were premixed and added into a suspension of potassium tert-butoxide (5.3 g, 47.2 mmol) in 150 mL of dry toluene at 90° C. The mixture was stirred at this temperature overnight. The solid precipitate was collected by filtration, washed with EtOAc and redissolved in 20 mL of water. The resulting solution was acidified with 1 N HCl to approximately pH 1 and was then extracted with EtOAc. The product 3-(1-methyl-1H-pyrrol-2-yl)-3-oxopropionitrile was obtained after removal of the solvent (1.9 g).

reactant | 1-Methyl-1H-pyrrole-2-carboxylic acid methyl ester | 35.9 mmol, 5 g | COC(=O)C=1N(C=CC1)C | C7H9NO2
reactant | CH3CN | 2.5 mL | CC#N | C2H3N
reactant | potassium tert-butoxide | 47.2 mmol, 5.3 g | CC(C)([O-])C.[K+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1-methyl-1H-pyrrol-2-yl)-3-oxopropionitrile | CN1C(=CC=C1)C(CC#N)=O | C8H8N2O
